US07368578B2
To a mixture of methyl 5-[({4-[(E)-2-(diethoxyphosphoryl)ethenyl]-1-phenyl-1H-pyrazol-3-yl}oxy)methyl]-2-{[2-(2-furyl)-5-methyl-1,3-oxazol-4-yl]methoxy}benzoate (0.40 g), tetrahydrofuran (2 mL) and ethanol (2 mL) was added 1N aqueous sodium hydroxide solution (1 mL), and the mixture was stirred at 50° C. for 1 hr. 1N Hydrochloric acid (1 mL) and water were added to the reaction mixture, and the precipitated crystals were collected by filtration to give 5-[({4-[(E)-2-(diethoxyphosphoryl)ethenyl]-1-phenyl-1H-pyrazol-3-yl}oxy)methyl]-2-{[2-(2-furyl)-5-methyl-1,3-oxazol-4-yl]methoxy}benzoic acid as colorless crystals (0.29 g, yield 74%). Recrystallization from tetrahydrofuran-hexane gave colorless prism crystals. melting point: 169-170° C.

reactant | methyl 5-[({4-[(E)-2-(diethoxyphosphoryl)ethenyl]-1-phenyl-1H-pyrazol-3-yl}oxy)methyl]-2-{[2-(2-furyl)-5-methyl-1,3-oxazol-4-yl]methoxy}benzoate | 0.40 g | C(C)OP(=O)(OCC)/C=C/C=1C(=NN(C1)C1=CC=CC=C1)OCC=1C=CC(=C(C(=O)OC)C1)OCC=1N=C(OC1C)C=1OC=CC1 | C33H34N3O9P
reactant | tetrahydrofuran | 2 mL | O1CCCC1 | C4H8O
reactant | sodium hydroxide | 1N, 1 mL | [OH-].[Na+]
reactant | Hydrochloric acid | 1N, 1 mL | Cl | ClH
solvent | water | O | H2O
solvent | ethanol | 2 mL | C(C)O | C2H6O
product | 5-[({4-[(E)-2-(diethoxyphosphoryl)ethenyl]-1-phenyl-1H-pyrazol-3-yl}oxy)methyl]-2-{[2-(2-furyl)-5-methyl-1,3-oxazol-4-yl]methoxy}benzoic acid | 0.29 g, yield 74% | C(C)OP(=O)(OCC)/C=C/C=1C(=NN(C1)C1=CC=CC=C1)OCC=1C=CC(=C(C(=O)O)C1)OCC=1N=C(OC1C)C=1OC=CC1 | C32H32N3O9P
